US05334720
A stirred mixture of 24. g (0.17 tool) of granular phosphorus pentoxide and 240.g (2.5 mol) of 98% methanesulfonic acid was maintained at 110 ° C. until all the solid dissolved (1 hour) . To this solution was added in portions over several minutes 12 g (0.05 mol) of 5,5-diphenyl-4-pentenenitrile. The resulting dark mixture was heated for 5 minutes longer and then carefully added to an ice-cooled vigorously stirred mixture of 1 liter of saturated aqueous sodium bicarbonate and 1 liter of ethyl acetate. The basic aqueous phase was extracted with 3×500 ml of fresh ethyl acetate, the organic layers were combined, washed with 2×500 ml of water, 1×500 ml brine, and dried over sodium sulfate. The resulting crude solid was recrystallized from toluene to give 8.5 g (66%) of 6,6-diphenyl-2-piperidinone as a white solid (mp 193°-196° C.) .

reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 5,5-diphenyl-4-pentenenitrile | 0.05 mol, 12 g | C1(=CC=CC=C1)C(=CCCC#N)C1=CC=CC=C1 | C17H15N
reactant | sodium bicarbonate | 1 liter | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 6,6-diphenyl-2-piperidinone | 8.5 g, 66% | C1(=CC=CC=C1)C1(CCCC(N1)=O)C1=CC=CC=C1 | C17H17NO
